US06376548B1
Acetic acid 2,6-dibromo-4-cyano-phenoxycarbonyloxymethyl ester (Compound 4-3 of Table 4)
A solution of carbonic acid iodomethyl ester 2,6-dibromo-4-cyanophenyl ester (0.30 g, 0.65 mmol) in acetic acid (6.5 mL) was added silver acetate (0.33 g, 1.95 mmol). The mixture was stirred for 3 h. The slurry was concentrated to solids and washed with ether. The ether was concentrated to afford the desired product as white solids (240 mg). 1H-NMR (300 MHz, CDCl3) δ (ppm): 2.19 (s, 3H), 5.90 (s, 2H), 7.89 (s, 2H).). 13C-NMR (300 MHz, CDCl3) δ (ppm): 21.0, 83.3, 113.7, 115.7, 119.1, 136.4, 149.9, 169.4, 183.7. Mp=84-86° C.

reactant | carbonic acid iodomethyl ester 2,6-dibromo-4-cyanophenyl ester | 0.65 mmol, 0.30 g | BrC1=C(C(=CC(=C1)C#N)Br)OC(OCI)=O | C9H4Br2INO3
reactant | acetic acid | 6.5 mL | C(C)(=O)O | C2H4O2
catalyst | silver acetate | 1.95 mmol, 0.33 g | C(C)(=O)[O-].[Ag+]
product | Acetic acid 2,6-dibromo-4-cyano-phenoxycarbonyloxymethyl ester | 240 mg | BrC1=C(OC(=O)OCOC(C)=O)C(=CC(=C1)C#N)Br | C11H7Br2NO5
